US04444981
Ethyl 3-oxo-5-m-toluylpentanoate
Ethyl acetoacetate (16.0 g; 0.123 mole) was added dropwise with stirring under nitrogen to 50% sodium hydride (6.5 g; 0.135 mole) in dry tetrahydrofuran (300 ml) at 0°. The resulting solution was stirred for 10 minutes at 0° before adding a solution of n-butyl lithium in hexane (95 ml, 1.6 M; 0.152 mole) dropwise. The resulting yellowish orange dianion solution was stirred for 10 minutes at 0° before adding α-bromo-m-xylene (34 g, 0.189 mole) in ether (20 ml) and allowed to warm to room temperature 30 minutes after completing the addition. The reaction mixture was quenched by addition of conc. HCl (25 ml) in H2O (60 ml) followed by ether (180 ml). The layers were separated and the aqueous further extracted with ether (3×125 ml). The combined organic layers were washed with water until the wash was neutral, then dried (anhydrous MgSO4) and evaporated to dryness. The resulting yellow oil was distilled under vacuum to give a pale yellow oil (22.0 g, 76%), b.p. 132°-139° at 0.19 mmHg, n.m.r. δ(CDCl3) 7.07 (4H, m), 4.25 (2H, q, J=7 Hz), 3.47 (2H, s), 2.95 (4H, s), 2.40 (3H, s) and 1.35 (3H, t, J=7 Hz).

reactant | Ethyl acetoacetate | 0.123 mole, 16.0 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium hydride | 0.135 mole, 6.5 g | [H-].[Na+]
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 0.152 mole, 1.6 M, 95 ml | CCCCCC | C6H14
reactant | α-bromo-m-xylene | 0.189 mole, 34 g | BrCC1=CC(=CC=C1)C | C8H9Br
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | ether | 20 ml | CCOCC | C4H10O
product | Ethyl 3-oxo-5-m-toluylpentanoate | 22.0 g, 76% | O=C(CC(=O)OCC)CCC=1C=C(C=CC1)C | C14H18O3
